US05319123
Step A. 4-(2,2-dimethyl-1-oxopropyl)-benzoyl chloride
A mixture of 150.0 g (0.725 mol) of 4-(2,2-dimethyl-1-oxopropyl)-benzoic acid and 0.3 ml of dimethylformamide are added with stirring at 22° C. to 30° C. to 180 ml (2.47 mol) of thionyl chloride over a period of 60 minutes. The resulting solution is heated to an internal temperature of 85° to 90° C., and maintained at this temperature for 15 minutes. The solution is allowed to cool to 50° C. to remove as much thionyl chloride as possible by vacuum distillation (20-30 torr) at an internal temperature of 45° to 55° C. Distillation is discontinued when the internal temperature reaches 55° C and 95 ml of dry toluene are added. The distillation is continued under vacuum at an internal temperature of 45° to 55° C. and again discontinued when the internal temperature reaches 55° C. at 20-30 torr. After allowing the residue to cool to 25° C. and diluting it with 950 ml of dry toluene, the solution is set aside for use below.

reactant | 4-(2,2-dimethyl-1-oxopropyl)-benzoic acid | 0.725 mol, 150.0 g | CC(C(=O)C1=CC=C(C(=O)O)C=C1)(C)C | C12H14O3
reactant | thionyl chloride | 2.47 mol, 180 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
product | 4-(2,2-dimethyl-1-oxopropyl)-benzoyl chloride | CC(C(=O)C1=CC=C(C(=O)Cl)C=C1)(C)C | C12H13ClO2
